US20010027197A1
A mixture of 2,4-diamino,5-cyanopyridinium acetate (8.78 g, 45 mmol), formic acid (10.66 g, 0.204 mol) and benzylamine (45 mL, 0.41 mol) is heated at 200° C. under N2 for 2 h. Upon cooling, it solidifies. Water (500 mL) is added and the gummy solid/water mixture is stirred for −20 min. at 0° C. The liquid is decanted. The solid is washed with water and then recrystallized from isopropanol (25 mL). After drying in a vacuum oven overnight, 7-amino-2-benzylaminopyrido[4,3-d]pyrimidine (8.29 g, 73%) is obtained as a light yellow solid. 1H NMR (DMSO) δ 9.10 (1H, s), 8.85 (1H, t, J=5.8 Hz), 8.25 (1H, s), 7.21-7.36 (5H, m), 6.46 (2H, brs), 6.35 (1H, s), 4.74 (2H, d, J=6.0 Hz).

reactant | 2,4-diamino,5-cyanopyridinium acetate | 45 mmol, 8.78 g | C(C)(=O)[O-].NC1=[NH+]C=C(C(=C1)N)C#N
reactant | formic acid | 0.204 mol, 10.66 g | C(=O)O | CH2O2
reactant | benzylamine | 0.41 mol, 45 mL | C(C1=CC=CC=C1)N | C7H9N
solvent | water | O | H2O
solvent | Water | 500 mL | O | H2O
product | 7-amino-2-benzylaminopyrido[4,3-d]pyrimidine | 8.29 g, 73% | NC1=CC=2N=C(N=CC2C=N1)NCC1=CC=CC=C1 | C14H13N5
